US07829712B2
A mixture of 6-chloropyridazine-3-carboxylic acid (2-cyclopropylethyl)amide (0.350 g, 1.55 mmol), 1-BOC-3-aminoazetidine (0.400 g, 2.32 mmol), tetrabutylammonium bromide (0.120 g, 0.36 mmol) and 1,8-diazabicyclo[5,4,0]undec-7-ene (1.000 g, 6.00 mmol) in 1,4-dioxane (30 mL) was heated under reflux overnight. The solvent was evaporated. The residue was washed with 1 M citric acid (50 mL) and ethyl ether (50 mL) was added. Ultrasonication of the mixture followed by filtration afforded 3-[6-(2-cyclopropylethylcarbamoyl)pyridazin-3-ylamino]azetidine-1-carboxylic acid tert-butyl ester as a white solid in 43% yield (0.240 g).

reactant | 6-chloropyridazine-3-carboxylic acid (2-cyclopropylethyl)amide | 1.55 mmol, 0.350 g | C1(CC1)CCNC(=O)C=1N=NC(=CC1)Cl | C10H12ClN3O
reactant | 1-BOC-3-aminoazetidine | 2.32 mmol, 0.400 g | C(=O)(OC(C)(C)C)N1CC(C1)N | C8H16N2O2
reactant | 1,8-diazabicyclo[5,4,0]undec-7-ene | 6.00 mmol, 1.000 g | N12CCCCCC2=NCCC1 | C9H16N2
catalyst | tetrabutylammonium bromide | 0.36 mmol, 0.120 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | 1,4-dioxane | 30 mL | O1CCOCC1 | C4H8O2
product | 3-[6-(2-cyclopropylethylcarbamoyl)pyridazin-3-ylamino]azetidine-1-carboxylic acid tert-butyl ester | 43% yield | C(C)(C)(C)OC(=O)N1CC(C1)NC=1N=NC(=CC1)C(NCCC1CC1)=O | C18H27N5O3
